US07893085B2
3-Chloro-isonicotinic acid ethyl ester
A suspension of 3-chloro-isonicotinic acid (1.0 g, 6.35 mmol) in thionyl chloride (10 ml) was heated under reflux for 2.5 hours. After cooling to ambient temperature, the solution was concentrated to dryness and then azeotroped with toluene (10 ml) to afford an oil. The resultant oil was added dropwise over 10 minutes to a cooled (0° C.) solution of ethanol (15 ml) and DIPEA (5 ml). The reaction was stirred at room temperature for 18 hours then concentrated in vacuo before water (20 ml) was added. The solution was extracted with ethyl acetate (30 ml) and the organic phase was dried over sodium sulfate then concentrated to give the title compound as an orange oil (1.1 g, 94%). 1H NMR (CDCl3, 400 MHz) 8.72 (s, 1H), 8.59 (d, J=4.9 Hz, 1H), 7.63 (dd, J=4.9 Hz, 0.5 Hz, 1H), 4.44 (q, J=7.3 Hz, 2H), 1.42 (t, J=7.3 Hz, 3H).

reactant | 3-chloro-isonicotinic acid | 6.35 mmol, 1.0 g | ClC1=C(C(=O)O)C=CN=C1 | C6H4ClNO2
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | DIPEA | 5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-Chloro-isonicotinic acid ethyl ester | 1.1 g, 94% | C(C)OC(C1=C(C=NC=C1)Cl)=O | C8H8ClNO2
